US05879657
Methyl 3-Nitro-5-hydroxymethylbenzoate
To a solution of monomethyl 3-nitroisophthalate (396.0 g, 1.76 mol) in anhydrous THF (1000 ml) was added 2.0M BMS (borane methylsulfide complex) in THF (880 ml, 1.76 mol) dropwise over 1 hour. The resulting solution was heated to reflux for 12 hours, and MeOH (750 ml) was slowly added to quench the reaction. The solution was concentrated to give a yellow solid which was recrystalized from toluene (297.5 g, 80%). 1H NMR (CDCl3): 8.71-8.70 (m, 1H), 8.41-8.40 (m, 1H), 8.31-8.30 (m, 1H), 4.86 (s, 2H), 3.96 (s, 3H), 2.47 (s, 1H); MP=76.5°-77.5° C.; DCI-MS: [M+H]=212.

reactant | monomethyl 3-nitroisophthalate | 1.76 mol, 396.0 g | [N+](=O)([O-])C1(CC(C(=O)OC)=CC=C1)C(=O)[O-]
reactant | MeOH | 750 ml | CO | CH4O
solvent | THF | 1000 ml | C1CCOC1 | C4H8O
solvent | THF | 1.76 mol, 880 ml | C1CCOC1 | C4H8O
product | Methyl 3-Nitro-5-hydroxymethylbenzoate | [N+](=O)([O-])C=1C=C(C(=O)OC)C=C(C1)CO | C9H9NO5
